US06002008
A mixture of 0.279 g of 4-chloro-6,7,8-trimethoxy-quinoline-3-carbonitrile, 0.177 g of 4-chloro-2-fluoroaniline, and 10 ml of ethoxyethanol was stirred under nitrogen, at reflux temperature for 30 minutes. The mixture was cooled and added to 100 ml of water. To this mixture was added sodium carbonate to pH 9. The product was extracted with ethyl acetate, washed with water, dried and concentrated in vacuo. The solid thus obtained was chromatographed on silica gel eluting with hexanes-ethyl acetate 9:1 to 2:1. Solvent was removed from product fractions giving 0.261 g of 4-(4-chloro-2-fluoro-phenylamino)-6,7,8-trimethoxy-quinoline-3-carbonitrile as a yellow solid: mp 166-168° C.; mass spectrum (EI, m/e): M 387.0777.

reactant | 4-chloro-6,7,8-trimethoxy-quinoline-3-carbonitrile | 0.279 g | ClC1=C(C=NC2=C(C(=C(C=C12)OC)OC)OC)C#N | C13H11ClN2O3
reactant | 4-chloro-2-fluoroaniline | 0.177 g | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | ethoxyethanol | 10 ml | C(C)OC(C)O | C4H10O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-(4-chloro-2-fluoro-phenylamino)-6,7,8-trimethoxy-quinoline-3-carbonitrile | 0.261 g | ClC1=CC(=C(C=C1)NC1=C(C=NC2=C(C(=C(C=C12)OC)OC)OC)C#N)F | C19H15ClFN3O3
